US07232819B2
Step 2: benzyl 1-(aminocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate (C-36)
A stirred solution of 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid (C-35) in dioxane was treated with pyridine (0.8 eq.) and Boc2O (1.5 eq.), then ammonium bicarbonate (1.46 eq.) was added and the mixture was stirred at room temperature for 15 hours. Dioxane was concentrated and the residue was taken up in ethyl acetate, washed with HCl 1N and brine and dried over Na2SO4 to give, after filtration and concentration, the titled compound (C-36).

reactant | 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C2(CCC1CC2)C(=O)O | C15H17NO4
reactant | pyridine | 0.8 eq. | N1=CC=CC=C1 | C5H5N
reactant | Boc2O | 1.5 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 1.46 eq. | C([O-])(O)=O.[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | benzyl 1-(aminocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate | NC(=O)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2 | C15H18N2O3
